US07157447B2
4-Fluoro-2-imidazol-1-yl-benzonitrile.
To a solution of imidazole (4.45 g, 65.4 mmol) in tetrahydrofuran (30 mL) and dimethylformamide (10 mL) was added potassium carbonate (9.95 g, 72 mmol) and the mixture was stirred for 30 min at room temp. To this was added 2,4-difluorobenzonitrile (10.0 g, 72 mmol) and the mixture stirred at 90° C. for 3 h then at room temp for 2 days. The mixture was filtered and concentrated and the residue was purified by flash chromatography (SiO2) eluting with 20% to 70% ethyl acetate/hexane to give the title compound as white needles (1.1 g, 9% yield). 1H-NMR (500 MHz, CDCl3) δ ppm: 7.94 (1H, s), 7.84 (1H, dd, J=8.7, 5.6 Hz), 7.37 (1H, t, J=8.7, 5.6 Hz), 7.37 (1H, t, J1=1.4 Hz), 7.29 (1H, t, J=1.1 Hz), 7.27–7.21 (2H, m). LCMS [M+H]+ calcd for C10H7N3F: 188.058. found: 188.12.

reactant | imidazole | 65.4 mmol, 4.45 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 72 mmol, 9.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-difluorobenzonitrile | 72 mmol, 10.0 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Fluoro-2-imidazol-1-yl-benzonitrile | 1.1 g, 9% yield | FC1=CC(=C(C#N)C=C1)N1C=NC=C1 | C10H6FN3
